US05650533
A mixture of ethyl 2-chloro-4-(1,1-dimethylethylsulphonyl)-benzoate (7.66 g) and sodium hydroxide (6.09 g) in water was stirred and heated at reflux for 2 hours. It was cooled, diluted with water and acidified to pH1. It was extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 2-chloro-4-(1,1-dimethylethylsulphonyl)benzoic acid (5.67 g) as an off white solid mp 155.2°-156.8° C.

reactant | ethyl 2-chloro-4-(1,1-dimethylethylsulphonyl)-benzoate | 7.66 g | ClC1=C(C(=O)OCC)C=CC(=C1)S(=O)(=O)C(C)(C)C | C13H17ClO4S
reactant | sodium hydroxide | 6.09 g | [OH-].[Na+]
solvent | water | O | H2O
product | 2-chloro-4-(1,1-dimethylethylsulphonyl)benzoic acid | 5.67 g | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C(C)(C)C | C11H13ClO4S
